US05004843
To 85.6 mg (1.1 mmol) of lithium butoxide prepared from n-butanol and lithium metal, there was added 10 ml of ether under an argon atmosphere and stirred at room temperature. The resulting mixture was cooled to -20° C., and a hexane solution of n-butyllithium (1.2 mmol) was added thereto and stirred. An ether solution of 3-methyl-3,4-epoxybutene-1 (89.9 mg; 1.1 mmol) was added dropwise thereto at -20° C., and after the addition was completed, stirring was effected at -20° C. for 1 hour and at 0° C. for 1 hour, followed by the usual work up to give 2-methyl-2-octen-1-ol in a yield of 74%. The Z/E ratio was 93.1/6.9.

reactant | lithium butoxide | 1.1 mmol, 85.6 mg | [O-]CCCC.[Li+]
reactant | n-butanol | C(CCC)O | C4H10O
reactant | lithium | [Li] | Li
reactant | n-butyllithium | 1.2 mmol | C(CCC)[Li]
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 10 ml | CCOCC | C4H10O
product | 2-methyl-2-octen-1-ol | yield of 74% | CC(CO)=CCCCCC | C9H18O
